US09233919B2
Synthesis of benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-(methacryloyloxy)propane-1-sulfonate
In 152 g of dichloromethane was dissolved 37.9 g (0.1 mole) of benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate in Synthesis Example 3. The solution was combined with 11.1 g (0.11 mole) of triethylamine and 0.06 g (0.005 mole) of 4-dimethylaminopyridine and stirred under ice cooling. At a temperature below 20° C., 16.2 g (0.105 mole) of methacrylic anhydride was added dropwise thereto. Stirring was continued overnight at room temperature, after which 13 g of conc. hydrochloric acid and 40 g of water were added to quench the reaction. The organic layer was separated and washed three times with 100 g of a 10 wt % aqueous solution of benzyltrimethylammonium chloride. A minute amount of a polymerization inhibitor was added, the solvent was removed in vacuum, and 150 g of diisopropyl ether was added to the residue for crystallization. Filtration and drying gave the target compound. White crystals, 31 g, yield 73%.

reactant | benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate | 0.1 mole, 37.9 g | FC(C(C(F)(F)F)O)(S(=O)(=O)[O-])F.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | triethylamine | 0.11 mole, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic anhydride | 0.105 mole, 16.2 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | hydrochloric acid | 13 g | Cl | ClH
solvent | dichloromethane | 152 g | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.005 mole, 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 40 g | O | H2O
product | benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-(methacryloyloxy)propane-1-sulfonate | yield 73% | FC(C(C(F)(F)F)OC(C(=C)C)=O)(S(=O)(=O)[O-])F.C(C1=CC=CC=C1)[N+](C)(C)C | InChI=1S/C10H16N.C7H7F5O5S/c1-11(2,3)9-10-7-5-4-6-8-10;1-3(2)4(13)17-5(6(8,9)10)7(11,12)18(14,15)16/h4-8H,9H2,1-3H3;5H,1H2,2H3,(H,14,15,16)/q+1;/p-1
